US07173058B2
3-(4-Acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N,N-dimethyl-propionamide was prepared by the procedure of example 13 from 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.5 g, 1.1 mmol), CDI (0.2 g, 0.1.3 mmol) and dimethylamine (2N in THF, 0.7 ml, 1.4 mmol) in THF (10 ml) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy -phenyl)-N,N-dimethyl-propionamide (0.35 g, 67% yield): mp,163–165° C.; 1HNMR (CDCl3): δ1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 2.25 (s, 3H, CH3CO), 2.90 (s, 3H, NCH3), 2.98 (dd, J=5, 15 Hz, 1H, CH2), 3.05 (s, 4H, NCH3+CH2), 3.91 (dd, J=10, 15 Hz, 1H, CH2), 4.09 (q, J=7.0 Hz, 2H, OCH2CH3), 5.81–5.87 (m, 1H, CHN), 6.53 (t, JH-F=75 Hz, 1H, CF2H), 7.11–7.17 (m, 3H, Ar), 7.45 (d, J=7.0 Hz, 1H, Ar), 7.62 (t, J=8.0 Hz, 1H, Ar), 8.73(d, J=8.8 Hz, 1H, Ar), 9.53 (s, 1H, NHCO). 13CNMR (DMSO-d6): δ 14.5, 24.8, 34.8, 35.5, 37.1, 51.3, 64.7, 111.9, 113.8, 115.4, 116.1, 117.9, 120.1, 120.2, 122.7, 124.7, 131.3, 135.8, 137.5, 138.1, 150.6, 168.1, 169.2, 169.3, 170.0; Anal Calcd for C24H25F2N3O6: C, 58.89; H, 5.15; N, 8.58. Found: C, 58.53; H, 4.78; N, 8.51.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.1 mmol, 0.5 g | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H20F2N2O7
reactant | CDI | 0.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylamine | 1.4 mmol, 2N, 0.7 ml | CNC | C2H7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy -phenyl)-N,N-dimethyl-propionamide | 0.35 g, 67% yield | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C24H25F2N3O6
